US08466289B2
Synthesis of the Title Compound: Cyclopropanesulfonic acid [7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-2,3-dihydro-5H-oxazolo[3,2-a]pyridin-8-yl]-amide (7A)
Cyclopropane sulfonyl chloride (50 mg, 0.35 mmol) was added to a solution of 8-amino-7-(2-fluoro-4-iodo-phenylamino)-6-methyl-2,3-dihydro-oxazolo[3,2-a]pyridin-5-one (I-7f: 80 mg, 0.199 mmol) in dry pyridine (1 mL) at 0° C. The resulting mixture was stirred at room temperature for 1 hour. The reaction was monitored by TLC (100% ethylacetate). The reaction mixture was partitioned between ethylacetate and water. The organic layer was washed with water, brine solution, dried over Na2SO4 and concentrated. Purification by column chromatography on silica gel (1.5% MeOH in DCM) afforded 3 mg of the product (3% yield).

reactant | Cyclopropane sulfonyl chloride | 0.35 mmol, 50 mg | C1(CC1)S(=O)(=O)Cl | C3H5ClO2S
reactant | 8-amino-7-(2-fluoro-4-iodo-phenylamino)-6-methyl-2,3-dihydro-oxazolo[3,2-a]pyridin-5-one | 0.199 mmol, 80 mg | NC1=C2N(C(C(=C1NC1=C(C=C(C=C1)I)F)C)=O)CCO2 | C14H13FIN3O2
reactant | ethylacetate | C(C)OC(C)=O | C4H8O2
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | Cyclopropanesulfonic acid [7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-2,3-dihydro-5H-oxazolo[3,2-a]pyridin-8-yl]-amide | 3 mg, 3% yield | FC1=C(C=CC(=C1)I)NC=1C(=C2N(C(C1C)=O)CCO2)NS(=O)(=O)C2CC2 | C17H17FIN3O4S
